US09083026B2
Chlorosulfonic acid and dichloroethane were mixed to form a 0.2M chlorosulfonic acid/dichloroethane solution. The St/MOSS co-grafted/crosslinked membrane and the 0.2M chlorosulfonic acid/dichloroethane solution were fed to a 500-mL separable flask equipped with a Dimroth condenser, after which in an oil bath at 50° C., sulfonation took place for 6 hours. This was followed by washing with dichloroethane and deionized water and vacuum drying at 100° C. for 2 hours. The thus chlorosulfonated St/MOSS co-grafted/crosslinked membrane was immersed in deionized water at 50° C. for 24 hours, yielding a H type electrolyte membrane.

reactant | Chlorosulfonic acid | ClS(=O)(=O)O | ClHO3S
reactant | dichloroethane | ClC(C)Cl | C2H4Cl2
product | chlorosulfonic acid dichloroethane | 0.2M | ClS(=O)(=O)O.ClC(C)Cl | InChI=1S/C2H4Cl2.ClHO3S/c1-2(3)4;1-5(2,3)4/h2H,1H3;(H,2,3,4)
